US05541175
A. Synthesis of 2-(3,4-dihydroxyphenyl)-2-hydroxy-1,1,1-trichloroethane
To the solution of 440 g of 1,2-dihydroxybenzene dissolved in 1 L of methylene dichloride was added 1036 g of trichloroacetaldehyde monohydrate and then the reaction solution was cooled down to 0° C. 102 g of triethylamine was slowly added dropwise thereto. The reaction solution was warmed to room temperature, stirred for about 20 minutes, heated to 50° C. and then stirred for further 3 hours while maintaining the same temperature. After the reaction is completed, the reaction mixture was distilled under reduced pressure to remove methylene dichloride. The residue was dissolved in 4 L of ethylacetate, washed successively with 2400 ml of 0.5N-aqueous hydrochloric acid solution and 2 L of saturated saline, dried over anhydrous magnesium sulfate and then distilled under reduced pressure to remove the solvent and to obtain 540 g of the title compound.

reactant | 1,2-dihydroxybenzene | 440 g | OC1=C(C=CC=C1)O | C6H6O2
reactant | trichloroacetaldehyde monohydrate | 1036 g | O.ClC(C=O)(Cl)Cl
reactant | triethylamine | 102 g | C(C)N(CC)CC | C6H15N
solvent | methylene dichloride | 1 L | C(Cl)Cl | CH2Cl2
product | 2-(3,4-dihydroxyphenyl)-2-hydroxy-1,1,1-trichloroethane | 540 g | OC=1C=C(C=CC1O)C(C(Cl)(Cl)Cl)O | C8H7Cl3O3
